US07351700B2
Intermediates VI: 2-Hexyl-isothiourea hydrobromide
Thiourea (50 g, 657 mmol) and 1-bromohexane (119 mL, 723 mmol) were heated at reflux under nitrogen in ethanol (500 mL) for 20 h. Ethanol was evaporated, and the thick oil stirred in diethyl ether (500 mL). The product precipitated spontaneously. After filtration one obtained 144.5 g (91%) of white crystals, m.p. 75° C.

reactant | Thiourea | 657 mmol, 50 g | NC(=S)N | CH4N2S
reactant | 1-bromohexane | 723 mmol, 119 mL | BrCCCCCC | C6H13Br
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-Hexyl-isothiourea hydrobromide | 144.5 g, 91% | Br.C(CCCCC)SC(N)=N | InChI=1S/C7H16N2S.BrH/c1-2-3-4-5-6-10-7(8)9;/h2-6H2,1H3,(H3,8,9);1H
